US07632840B2
2-Chloroethyl methyl ether (0.967 g, 6.2 mmol) was added to a stirred suspension of 4-[(3-chloro-2-fluorophenyl)amino]-7-hydroxyquinazoline-6-carbaldehyde (1.0 g, 3.1 mmol) and K2CO3 (1.30 g, 9.45 mmol) in dimethyl formamide (10 ml) at room temperature. The resulting suspension was heated at 90° C. for 8 hours, cooled to room temperature, concentrated and purified by preparative LCMS (standard basic system) to give 4-[(3-chloro-2-fluorophenyl)amino]-7-(2-methoxyethoxy)quinazoline-6-carbaldehyde as a pale yellow solid, (0.150 g, 15%); Mass Spectrum: (M+H)+ 376.

reactant | 2-Chloroethyl methyl ether | 6.2 mmol, 0.967 g | COCCCl | C3H7ClO
reactant | 4-[(3-chloro-2-fluorophenyl)amino]-7-hydroxyquinazoline-6-carbaldehyde | 3.1 mmol, 1.0 g | ClC=1C(=C(C=CC1)NC1=NC=NC2=CC(=C(C=C12)C=O)O)F | C15H9ClFN3O2
reactant | K2CO3 | 9.45 mmol, 1.30 g | C(=O)([O-])[O-].[K+].[K+]
solvent | dimethyl formamide | 10 ml | CN(C=O)C | C3H7NO
product | 4-[(3-chloro-2-fluorophenyl)amino]-7-(2-methoxyethoxy)quinazoline-6-carbaldehyde | ClC=1C(=C(C=CC1)NC1=NC=NC2=CC(=C(C=C12)C=O)OCCOC)F | C18H15ClFN3O3
